US07795283B2
iv) 6-(1,4-Dioxaspiro[4.5]dec-8-yl)pyridin-3-amine
Wet 50% palladium on carbon (750 mg) was added to a solution of 2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)-5-nitropyridine (3.96 g, 15.11 mmol), prepared as above, in MeOH (500 mL). The reaction mixture was deoxygenated by evacuation and placed under an atmosphere of hydrogen (5 cycles) then stirred for 16 h. The mixture was filtered, and the filtrate concentrated to give the title compound (3.10 g, 87%) as a solid;

reactant | 2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)-5-nitropyridine | 15.11 mmol, 3.96 g | O1CCOC12CC=C(CC2)C2=NC=C(C=C2)[N+](=O)[O-] | C13H14N2O4
catalyst | palladium on carbon | 750 mg | [Pd] | Pd
solvent | MeOH | 500 mL | CO | CH4O
product | 6-(1,4-Dioxaspiro[4.5]dec-8-yl)pyridin-3-amine | 3.10 g, 87% | O1CCOC12CCC(CC2)C2=CC=C(C=N2)N | C13H18N2O2
